US08022099B2
e) Methyl-((3RS,4SR)-4-phenyl-pyrrolidin-3-yl)-carbamic acid tert-butyl ester
To a stirred solution of ((3RS,4SR)-1-Benzyl-4-phenyl-pyrrolidin-3-yl)-methyl-carbamic acid tert-butyl ester (2.03 g, 5.56 mmol) in MeOH (20 ml) at RT, was added ammonium formate (1.60 g, 25.4 mmol) and palladium on charcoal (0.40 g, 10%) The reaction mixture was stirred for 2 hours, filtrate on celite and concentrated under vacuo. The residue was purified by column chromatography (CH2Cl2/MeOH, 9/1) to give 0.57 g (41%) of the title product as a waxy solid.

reactant | ((3RS,4SR)-1-Benzyl-4-phenyl-pyrrolidin-3-yl)-methyl-carbamic acid tert-butyl ester | 5.56 mmol, 2.03 g | C(C)(C)(C)OC(N(C)C1CN(CC1C1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H30N2O2
reactant | ammonium formate | 25.4 mmol, 1.60 g | C(=O)[O-].[NH4+]
solvent | MeOH | 20 ml | CO | CH4O
catalyst | palladium on charcoal | 0.40 g | [Pd] | Pd
product | Methyl-((3RS,4SR)-4-phenyl-pyrrolidin-3-yl)-carbamic acid tert-butyl ester | 0.57 g, 41% | C(C)(C)(C)OC(N(C1CNCC1C1=CC=CC=C1)C)=O | C16H24N2O2
